US04294960
A solution of ethyl 2-n-butoxyimino-3-oxobutyrate (syn isomer, 48.8 g.), sulfuryl chloride (31.5 g.) and acetic acid (48.8 ml.) was stirred at 40° C. for 10 minutes and further at room temperature for 5.5 hours. After water (300 ml.) was added to the resultant solution under ice cooling, the solution was extracted with methylene chloride three times. The extract was washed with water, an aqueous solution of sodium bicarbonate and a saturated aqueous solution of sodium chloride in turn, and dried over magnesium sulfate. The solution was concentrated in vacuo to give ethyl 2-n-butoxyimino-4-chloro-3-oxobutyrate (syn isomer, 52.1 g.), oil.

reactant | ethyl 2-n-butoxyimino-3-oxobutyrate | 48.8 g | C(CCC)ON=C(C(=O)OCC)C(C)=O | C10H17NO4
reactant | sulfuryl chloride | 31.5 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | acetic acid | 48.8 ml | C(C)(=O)O | C2H4O2
solvent | water | 300 ml | O | H2O
product | ethyl 2-n-butoxyimino-4-chloro-3-oxobutyrate | 52.1 g | C(CCC)ON=C(C(=O)OCC)C(CCl)=O | C10H16ClNO4
